US08912180B2
A mixture of tert-butyl 4-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfinyl)pyrimidin-4-yl}oxy)methyl]piperidine-1-carbamate (240 mg), morpholine (0.3 mL), and N,N-dimethylacetamide (2 mL) was stirred at room temperature for 1 hour. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by silica gel column chromatography (hexane:ethyl acetate=70:30-50:50) to obtain tert-butyl 4-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)methyl]piperidine-1-carbamate (246 mg) as a white powder.

reactant | tert-butyl 4-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(methylsulfinyl)pyrimidin-4-yl}oxy)methyl]piperidine-1-carbamate | 240 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)S(=O)C)OCC1CCN(CC1)NC(=O)OC(C)(C)C)C=CC=C2)F | C24H30F2N6O4S
reactant | morpholine | 0.3 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | tert-butyl 4-[({6-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-2-(morpholin-4-yl)pyrimidin-4-yl}oxy)methyl]piperidine-1-carbamate | 246 mg | FC(C1=NC2=C(N1C1=CC(=NC(=N1)N1CCOCC1)OCC1CCN(CC1)NC(=O)OC(C)(C)C)C=CC=C2)F | C27H35F2N7O4
